US07612114B2
1-Ethyl-4-methoxy-7-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-1H-indole-2,3-dione
To a solution of ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (260 mg) in diethyl ether (30 ml) was added dropwise oxalyl chloride (0.21 ml) on an ice bath, and the solution was stirred for 30 minutes at room temperature. The reaction solution was concentrated in vacuo, the total amount of the resulting {ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}oxoacetyl chloride (crude product) was stirred in dichloromethane (5 ml), a solution of aluminum chloride (220 mg) in dichloromethane (20 ml) was added dropwise thereto on an ice bath, and the solution was stirred overnight at room temperature. The reaction mixture was diluted with ice water, extracted with chloroform, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (160 mg).

reactant | ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 260 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
reactant | oxalyl chloride | 0.21 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1-Ethyl-4-methoxy-7-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-1H-indole-2,3-dione | 160 mg | C(C)N1C(C(C2=C(C=CC(=C12)C1CC2=CC=C(C=C2CC1)OC)OC)=O)=O | C22H23NO4
